US06277987B1
A solution of the title H compound, (2R)-amino-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester (1.02 g, 3.19 mmol) and triethylamine (1.34 mL, 9.61 mmol) in 20 mL of dichloromethane is treated with the title 1 compound, 4′-chlorobiphenyl-4-sulfonyl chloride (0.92 g, 3.19 mmol) at 0° C. After stirring at this temperature for 30 min, then at RT for 16 h, the solution is washed with 35 mL of 2M aqueous HCl and the organic solution is washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure. Chomatography on silica gel (eluant; ethyl acetate) affords 0.96 g (53%) of (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester as a waxy, white solid: NMR(CDCl3) 1.21 (s, 9H), 1.60-1.68 (br m, 1H), 1.75-1.84 (br m, 3H), 3.68-3.74 (m, 2H), 3.82-3.92 (m, 1H), 5.24 (d, 1H, J=9.2), 7.44 (d, 2H, J=8.6), 7.49 (d, 2H, J=8.6), 7.65 (d, 2H, J=8.5), 7.70-7.74 (m, 2H), 7.83-7.86 (m, 2H), 7.92 (d, 2H, J=8.5); IR 1774, 1712, 1348, 1162; ESI-MS 569 (M++1).

reactant | (2R)-amino-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester | 3.19 mmol, 1.02 g | C(C)(C)(C)OC([C@@H](CCCN1C(C2=CC=CC=C2C1=O)=O)N)=O | C17H22N2O4
reactant | triethylamine | 9.61 mmol, 1.34 mL | C(C)N(CC)CC | C6H15N
reactant | 4′-chlorobiphenyl-4-sulfonyl chloride | 3.19 mmol, 0.92 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8Cl2O2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (2R)-(4′-chlorobiphenyl-4-sulfonylamino)-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid t-butyl ester | 0.96 g, 53% | C(C)(C)(C)OC([C@@H](CCCN1C(C2=CC=CC=C2C1=O)=O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C29H29ClN2O6S
